TI unchanged model probe RLIM=19200
.include "/Users/magnustrandokken/Documents/Projects/Trimix/trimix-analysator/hardware/system-review/electrical/power-simulation/manufacturer-model/TPS22950_TRANS.lib"
VSUP vin 0 5
VEN en 0 PULSE(0 5 1m 1u 1u 20m 40m)
CIN vin 0 1u
COUT out 0 22u
RLOAD out 0 1
RLIM ilim 0 19200
RFAULT vin fault 10000
XSW fault 0 ilim en vin out TPS22950_TRANS RLIM=19200
.save v(out) v(vin) v(en) i(VSUP)
.tran 2u 12m
.end
